US08609656B2
(S)-4-Amino-4-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-ylcarbamoyl)butanoic acid hydrochloride (Table 1, Compound No. 103)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and tert-butoxycarbonyl-L-glutamic acid 5-tert-butyl ester by using the same method as in Example 96.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | tert-butoxycarbonyl-L-glutamic acid 5-tert-butyl ester | C(C)(C)(C)OC(CC[C@H](NC(=O)OC(C)(C)C)C(=O)O)=O | C14H25NO6
product | (S)-4-Amino-4-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-ylcarbamoyl)butanoic acid hydrochloride | Cl.N[C@@H](CCC(=O)O)C(NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | InChI=1S/C24H20ClF3N8O4.ClH/c25-16-6-3-13(9-15(16)24(26,27)28)34-23(40)33-12-1-4-14(5-2-12)36-11-32-19-20(30-10-31-21(19)36)35-22(39)17(29)7-8-18(37)38;/h1-6,9-11,17H,7-8,29H2,(H,37,38)(H2,33,34,40)(H,30,31,35,39);1H/t17-;/m0./s1
